US09328067B2
3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]-N-ethyl-N-methylpropanamide
To a solution of 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]propanoic acid (297 mg, 0.70 mmol) in DMF (2 ml) was added EDC.HCl (148 mg, 0.77 mmol), HOBT.H2O (104 mg, 0.77 mmol), and N-methylethanamine (0.30 ml, 3.5 mmol). The reaction was stirred at room temperature for 16 hours, diluted with 1M HCl, extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (10-40% EtOAc in hexane) to yield the title compound (269 mg, 83%) as a mixture of amide bond cis-trans isomers.

reactant | 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]propanoic acid | 0.70 mmol, 297 mg | ClC1=CC(=C(C=C1)SCCC(=O)O)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C15H12Cl2FNO4S2
reactant | EDC.HCl | 0.77 mmol, 148 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.77 mmol, 104 mg | O | H2O
reactant | N-methylethanamine | 3.5 mmol, 0.30 ml | CNCC | C3H9N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | HCl | 1M | Cl | ClH
product | 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]-N-ethyl-N-methylpropanamide | 269 mg, 83% | ClC1=CC(=C(C=C1)SCCC(=O)N(C)CC)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C18H19Cl2FN2O3S2
